US07132426B2
Preparation of (5-Butyl-pyridin-2-yl)-{4-[1-(4-methanesulfonyl-phenyl)-1H-pyrazolo[3,4-d]pyrimidin-4-yloxy]-piperidin-1-yl}-methanone (Compound A125)
5-Butyl-pyridine-2-carboxylic acid (92 mg, 0.51 mmol) and isopropyl chloroformate (70 μL, 0.51 mmol) were dissolved in DMF and stirred at room temperature for 40 min. 1-(4-Methanesulfonyl-phenyl)-4-(piperidin-4-yloxy)-1H-pyrazolo[3,4-d]pyrimidine hydrochloride (70 mg, 0.17 mmol) and triethylamine (72 μL, 0.51 mmol) were added next and continued to stir for 24 hours. Progress of the reaction was monitored by TLC and LCMS. Removal of organic solvents in vacuo and purification by HPLC afforded Compound A125 as a white solid (13 mg, 13%). Exact mass calculated for C27H30N6O4S 534.63, found 535.20 (MH+).

reactant | 5-Butyl-pyridine-2-carboxylic acid | 0.51 mmol, 92 mg | C(CCC)C=1C=CC(=NC1)C(=O)O | C10H13NO2
reactant | isopropyl chloroformate | 0.51 mmol, 70 μL | ClC(=O)OC(C)C | C4H7ClO2
reactant | 1-(4-Methanesulfonyl-phenyl)-4-(piperidin-4-yloxy)-1H-pyrazolo[3,4-d]pyrimidine hydrochloride | 0.17 mmol, 70 mg | Cl.CS(=O)(=O)C1=CC=C(C=C1)N1N=CC=2C1=NC=NC2OC2CCNCC2
reactant | triethylamine | 0.51 mmol, 72 μL | C(C)N(CC)CC | C6H15N
solvent | DMF | CN(C)C=O | C3H7NO
product | (5-Butyl-pyridin-2-yl)-{4-[1-(4-methanesulfonyl-phenyl)-1H-pyrazolo[3,4-d]pyrimidin-4-yloxy]-piperidin-1-yl}-methanone | 13 mg, 13% | C(CCC)C=1C=CC(=NC1)C(=O)N1CCC(CC1)OC1=C2C(=NC=N1)N(N=C2)C2=CC=C(C=C2)S(=O)(=O)C | C27H30N6O4S
